US07253168B2
Preparation of (6-CHLOROPYRIDIN-3-YL)((1S,4S)-5-((S)-1-(2,3-DIMETHYL-4-PROPOXYPHENYL)ETHYL)-2,5-DIAZA-BICYCLO[2.2.1]HEPTAN-2-YL)METHANONE
A solution of 6-chloronicotinoyl chloride (151 mg, 0.86 mmol) in 2 mL CH2Cl2 is added to a mixture of (1S,4S)-2-((S)-1-(2,3-dimethyl-4-propoxyphenyl)ethyl)-2,5-diaza-bicyclo[2.2.1]heptane in 5 mL of CH2Cl2 and aqueous NaHCO3 (saturated solution, 3 mL). The mixture is stirred vigorously at room temperature for 1 h. The mixture is then diluted with 1N NaOH (5 mL) and extracted CH2Cl2 (2×25 mL). The combined extracts are dried over Na2SO4, filtered and concentrated under reduced pressure. The crude material is purified by flash chromatography on silicagel, eluting with CHCl3-MeOH (40:1 to 20:1) to afford the title compound. LC/MS: 428 (M+1).

reactant | 6-chloronicotinoyl chloride | 0.86 mmol, 151 mg | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | (1S,4S)-2-((S)-1-(2,3-dimethyl-4-propoxyphenyl)ethyl)-2,5-diaza-bicyclo[2.2.1]heptane | CC1=C(C=CC(=C1C)OCCC)[C@H](C)N1[C@@H]2CN[C@H](C1)C2 | C18H28N2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 3 mL | C(=O)(O)[O-].[Na+]
solvent | NaOH | 1N, 5 mL | [OH-].[Na+]
product | (6-CHLOROPYRIDIN-3-YL)((1S,4S)-5-((S)-1-(2,3-DIMETHYL-4-PROPOXYPHENYL)ETHYL)-2,5-DIAZA-BICYCLO[2.2.1]HEPTAN-2-YL)METHANONE | ClC1=CC=C(C=N1)C(=O)N1[C@@H]2CN([C@H](C1)C2)[C@@H](C)C2=C(C(=C(C=C2)OCCC)C)C | C24H30ClN3O2
